US04736056
Into a 500 milliliter three-necked Morton flask equipped with a mechanical stirrer, thermometer and nitrogen inlet and outlet was added 30.0 grams (0.10 mol) of ethyl 3-[4-bromo-2-methylphenyl)amino]-3-oxopropanoate prepared as in Example A, 34.5 grams (0.25 mol) of finely ground anhydrous potassium carbonate, 100 milliliters of dry dimethylformamide and 8.60 milliliters (0.10 mol) of 1,2-dibromoethane. The resulting mixture was stirred vigorously at ambient temperature under a nitrogen atmosphere for a period of 55 hours. During the first hour, the reaction exothermed from a temperature of 24° C. to 37° C. and, after 2 hours, high pressure liquid chromatographic analysis showed the reaction to be about 70 percent complete. The product was isolated by diluting with methylene chloride, filtering off the solids and concentrating under reduced pressure to give a yellow solid. Chromatography on silica gel with a 3:1 volume/volume hexane-ethyl acetate eluent provided ethyl 1-(4-bromo-2-methylphenylaminocarbonyl)cyclopropanecarboxylate in two portions: 0.6 grams (1.8 mmol) of a pale yellow solid having a melting point of 89.5° C.-90.0° C. and 24.8 grams (0.076 mol) of a colorless solid having a melting point of 90.0° C.-90.5° C. The total yield was 81.0 percent based on a 96.7 weight percent assay of the starting ethyl 3-[(4-bromo-2-methylphenyl)amino]-3-oxopropanoate. NMR analysis of the product indicated the following:

reactant | 3-oxopropanoate | O=CCC(=O)[O-]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 100 milliliters | CN(C=O)C | C3H7NO
reactant | 1,2-dibromoethane | 0.10 mol, 8.60 milliliters | BrCCBr | C2H4Br2
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | ethyl 1-(4-bromo-2-methylphenylaminocarbonyl)cyclopropanecarboxylate | yield was 81.0 percent | BrC1=CC(=C(C=C1)NC(=O)C1(CC1)C(=O)OCC)C | C14H16BrNO3
